US07935725B2
4-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-benzoic acid methyl ester
To a solution of 2-[4-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-phenoxy]-benzothiazole (200 mg, 0.56 mmol) in CH2Cl2 (22 mL) was added 4-formyl-benzoic acid methyl ester (103 mg, 0.62 mmol) followed by the addition of acetic acid (28 μL, 0.48 mmol) then sodium triacetoxyborohydride (144 mg, 0.68 mmol). The reaction stirred at rt for 16 h. The reaction was then washed with satd. aq. NaHCO3 (2×20 mL). The organic layer was dried, filtered and concentrated. The resulting oil was purified by column chromatography (20% to 60% EtOAc in Hexanes) to afford the title compound (55 mg, 19%). MS (ESI): mass calcd. for C29H29N3O3S, 499.64; m/z found, 500.2 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.01 (d, J=8.3 Hz, 2H), 7.76 (d, J=8.1 Hz, 1H), 7.47-7.38 (m, 1H), 7.35-7.26 (m, 4H), 7.68 (d, J=7.9 Hz, 4H), 3.92 (s, 4H), 3.65 (d, J=12.2 Hz, 4H), 2.71-2.60 (m, 3H), 2.38 (d, J=7.2 Hz, 4H), 1.27 (s, 2H).

reactant | 2-[4-(hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-phenoxy]-benzothiazole | 0.56 mmol, 200 mg | C1N(CC2C1CNC2)CC2=CC=C(OC=1SC3=C(N1)C=CC=C3)C=C2 | C20H21N3OS
reactant | 4-formyl-benzoic acid methyl ester | 0.62 mmol, 103 mg | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | acetic acid | 0.48 mmol, 28 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.68 mmol, 144 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | 4-{5-[4-(Benzothiazol-2-yloxy)-benzyl]-hexahydro-pyrrolo[3,4-c]pyrrol-2-ylmethyl)-benzoic acid methyl ester | 55 mg, 19% | COC(C1=CC=C(C=C1)CN1CC2CN(CC2C1)CC1=CC=C(C=C1)OC=1SC2=C(N1)C=CC=C2)=O | C29H29N3O3S
